US08008525B2
Ethyl 3-(4-{[3-(2-tert-butoxy-2-oxoethoxy)benzyl]oxy}-3-fluorophenyl)propanoate
To a solution of ethyl 3-{3-fluoro-4-[(3-hydroxybenzyl)oxy]phenyl}propanoate (0.30 g, 0.94 mmol) and tert-butyl bromoacetate (0.92 g, 4.70 mmol) in N,N-dimethylformamide (10 mL) was added potassium carbonate (0.52 g, 3.76 mmol), and the mixture was stirred at 60° C. for 12 hours. The reaction mixture was diluted with ethyl acetate, filtered, washed with water, and then concentrated under reduced pressure. The resulting residue was purified with silica gel column chromatography (hexane/ethyl acetate=6:4) to give the title compound (0.43 g, yield 99%) as an oily matter.

reactant | ethyl 3-{3-fluoro-4-[(3-hydroxybenzyl)oxy]phenyl}propanoate | 0.94 mmol, 0.30 g | FC=1C=C(C=CC1OCC1=CC(=CC=C1)O)CCC(=O)OCC | C18H19FO4
reactant | tert-butyl bromoacetate | 4.70 mmol, 0.92 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 3.76 mmol, 0.52 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 3-(4-{[3-(2-tert-butoxy-2-oxoethoxy)benzyl]oxy}-3-fluorophenyl)propanoate | 0.43 g, yield 99% | C(C)(C)(C)OC(COC=1C=C(COC2=C(C=C(C=C2)CCC(=O)OCC)F)C=CC1)=O | C24H29FO6
